US07199127B2
2.5 g (11.2 mmol) of (1R)-1-((3aS,4R,6aR)-2,2-dimethyltetrahydrothieno[3,4-d][1,3]dioxol-4-yl)-ethane-1,2-diol from the aforementioned Experimental Example 5 were dissolved in ethyl acetate to which lead tetraacetate were added at 0° C., and the reaction mixture was stirred for 10 min. The reaction mixture was filtered. Ethyl acetate was added to the filtrate, which was washed with saturated sodium bicarbonate, dried, and filtered. The filtrate was concentrated under reduced pressure, and the concentrate was purified by silica gel column chromatography using the eluant (hexane:ethyl acetate=5:1) to obtain 2.1 g (yield: 98%) of (3aS,4S,6aR)-2,2-dimethyltetrahydrothieno[3,4-d][1,3]dioxole-4–Carbaldehyde as an oil.

reactant | (1R)-1-((3aS,4R,6aR)-2,2-dimethyltetrahydrothieno[3,4-d][1,3]dioxol-4-yl)-ethane-1,2-diol | 11.2 mmol, 2.5 g | CC1(O[C@H]2[C@@H](O1)CS[C@@H]2[C@@H](CO)O)C | C9H16O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
product | (3aS,4S,6aR)-2,2-dimethyltetrahydrothieno[3,4-d][1,3]dioxole-4–Carbaldehyde | 2.1 g, yield: 98% | CC1(O[C@H]2[C@@H](O1)CS[C@@H]2C=O)C | C8H12O3S
